US06528525B1
Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methanesulfonylphenoxy)propionate
In a similar manner to that described in Example 122, a reaction was carried out using methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate (518 mg), which is obtained in a similar manner to that described in Reference example 39(a), 4-methanesulfonylphenol (394 mg), tributylphosphine (0.57 ml) instead of triphenylphosphine and 1,1′-(azodicarbonyl)dipiperidine (578 mg) instead of diethylazodicarboxylate and the reaction mixture was treated to afford the desired compound (441 mg) as a mass of foam.

reactant | methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-hydroxypropionate | 518 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)O | C17H25NO6
reactant | 4-methanesulfonylphenol | 394 mg | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | tributylphosphine | 0.57 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 578 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
product | Methyl 3-[4-(2-t-butoxycarbonylaminoethoxy)phenyl]-2-(4-methanesulfonylphenoxy)propionate | 441 mg | C(C)(C)(C)OC(=O)NCCOC1=CC=C(C=C1)CC(C(=O)OC)OC1=CC=C(C=C1)S(=O)(=O)C | C24H31NO8S
